US06812227B2
To a stirred suspension of methyl-1-amino-1-cyclopentane carboxylate hydrochloride (15 g, 84.0 mmol) and N,N-diisopropylethylamine in methylene chloride (200 mL) and acetonitrile (50 mL), 4-butynyloxyphenylsulfonylchloride (24.7 g, 100 mmol) was slowly added at room temperature. Reaction mixture was stirred for 16 hrs and evaporated to dryness. It was extracted with chloroform, washed well with water and dried over anhydrous MgSO4. Chloroform layer was filtered and concentrated. The product was crystallized from a mixture acetone:hexane (1:1) to give methyl 1-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclopentane carboxylate as white crystals, 26.8 g (91%), mp 81-3° C. Electrospray Mass Spec352 (M+H)+.

reactant | methyl-1-amino-1-cyclopentane carboxylate hydrochloride | 84.0 mmol, 15 g | Cl.COC(=O)C1(CCCC1)N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-butynyloxyphenylsulfonylchloride | 100 mmol, 24.7 g | C(#CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | methyl 1-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclopentane carboxylate | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC1(CCCC1)C(=O)OC | C17H21NO5S
